US07452885B2
Preparation of 2-Amino-3-methyl-5-phenyl-5-pyridin-4-yl-3,5-dihydro-4H-imidazol-4-one
A suspension of 1-phenyl-2-pyridin-4-ylethane-1,2-dione (0.81 g, 3.8 mmol), N-methylguanidine hydrochloride (1.92 g, 17.5 mmol) and Na2CO3 (3.71 g, 35 mmol) in EtOH (25 mL) and H2O (5 mL) is refluxed for 18 h. The reaction mixture is cooled and poured into water. The precipitate is collected by filtration, washed with water, and air-dried to give the title compound (0.62 g, 62%) as a solid. Mp 154-155° C. MS (+) ES: 267 (M+H)+.

reactant | 1-phenyl-2-pyridin-4-ylethane-1,2-dione | 3.8 mmol, 0.81 g | C1(=CC=CC=C1)C(C(=O)C1=CC=NC=C1)=O | C13H9NO2
reactant | N-methylguanidine hydrochloride | 17.5 mmol, 1.92 g | Cl.CNC(=N)N
reactant | Na2CO3 | 35 mmol, 3.71 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | H2O | 5 mL | O | H2O
product | 2-Amino-3-methyl-5-phenyl-5-pyridin-4-yl-3,5-dihydro-4H-imidazol-4-one | 0.62 g, 62% | NC1=NC(C(N1C)=O)(C1=CC=NC=C1)C1=CC=CC=C1 | C15H14N4O
